US07691882B2
1-Benzyloxy-4-(2-nitro-ethyl)-benzene
While cooling using a water bath, to a mixture of 1-benzyloxy-4-((E)-2-nitro-vinyl)-benzene described in Manufacturing Example 229-1-1 (60 g, 0.23 mol), acetic acid (27 mL) and dimethyl sulfoxide (400 mL) was added sodium borohydrate (8.9 g, 0.23 mol), which was stirred for 20 minutes at room temperature. Water (2.5 L) was added dropwise to the reaction mixture, and the deposited solids were filtered. Diethyl ether (300 mL) was added to the obtained solids to dissolve the title compound, and separation into filtrate and solids was carried out by filtration. The filtrate was concentrated under a reduced pressure to obtain the title compound (39 g). On the other hand, diethyl ether (300 mL) was added to the previously separated solid to dissolve the title compound, and separation into filtrate and solids was carried out by filtration. The filtrate was concentrated under a reduced pressure to obtain the title compound (12 g). This was combined with the previously obtained solids to obtain the title compound (51 g) as a crude product.

reactant | 1-benzyloxy-4-((E)-2-nitro-vinyl)-benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C15H13NO3
reactant | acetic acid | 27 mL | C(C)(=O)O | C2H4O2
reactant | dimethyl sulfoxide | 400 mL | CS(=O)C | C2H6OS
reactant | sodium borohydrate | 0.23 mol, 8.9 g | [B-].[Na+]
solvent | Water | 2.5 L | O | H2O
product | 1-Benzyloxy-4-(2-nitro-ethyl)-benzene | 39 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC[N+](=O)[O-] | C15H15NO3
